US07355069B2
N-Ethyl-N-(2-fluorobenzyl)-2-(4-hydroxyphenyl)acetamide (0.381 g, 1.327 mmol) and methyl 2-(bromomethyl)benzoate (0.334 g, 1.460 mmol) were dissolved in acetonitrile (10 ml) and potassium carbonate (0.367 g, 2.654 mmol) was added. The mixture was stirred at 65° C. for three hours. When N-ethyl-N-(2-fluorobenzyl)-2-(4-hydroxyphenyl)acetamide was consumed, PS-trisamine (0.3 eqv) was added and the solution was stirred overnight at room temperature. The polymer was filtered off and acetonitrile was removed by evaporation. EtOAc (10 ml) was added and the organic phase was washed with two portions of water, dried (MgSO4) and the solvent was removed by evaporation to give 0.545 g of methyl 2-[(4-{2-[ethyl(2-fluorobenzyl)amino]-2-oxoethyl}phenoxy)methyl]benzoate (yield 94.3%).

reactant | N-Ethyl-N-(2-fluorobenzyl)-2-(4-hydroxyphenyl)acetamide | 1.327 mmol, 0.381 g | C(C)N(C(CC1=CC=C(C=C1)O)=O)CC1=C(C=CC=C1)F | C17H18FNO2
reactant | methyl 2-(bromomethyl)benzoate | 1.460 mmol, 0.334 g | BrCC1=C(C(=O)OC)C=CC=C1 | C9H9BrO2
reactant | potassium carbonate | 2.654 mmol, 0.367 g | C([O-])([O-])=O.[K+].[K+]
reactant | trisamine | 0.3 eqv | C(C(CO)(CO)N)O | C4H11NO3
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | methyl 2-[(4-{2-[ethyl(2-fluorobenzyl)amino]-2-oxoethyl}phenoxy)methyl]benzoate | 0.545 g, yield 94.3% | C(C)N(C(CC1=CC=C(OCC2=C(C(=O)OC)C=CC=C2)C=C1)=O)CC1=C(C=CC=C1)F | C26H26FNO4
